US05856556
(3S, 4R)-3-[(R)-1-(p-Nitrobenzyloxycarbonyloxy)ethyl]-1-(p-nitrobenzyloxyethyl)-4-[(phenylthio)carbonylmethyl]-2-azetidinone
1.00 g (2.25 mmole) of (3S, 4R)-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-4-[(phenylthio)carbonyl-methyl]-2-azetidinone was dissolved in 20 ml of methylene chloride. To the solutiion were added 350 mg (2.71 mmole) of diisopropylethylamine and then 660 mg (2.71 mmole) of p-nitrobenzyloxyethyl chloride, with stirring at 0° C. After 15 minutes, a further 230 mg (1.78 mmole) of diisopropylethylamine and 433 mg (1.78 mmole) of p-nitrobenzyloxyethyl chloride were added, and the mixture was stirred at that temperature for 15 minutes. After completion of the reaction, 30 ml of a 0.1M phosphate buffer solution (pH 7.1) was added to the reaction mixture and the organic layer was separated. The aqueous lager was extracted with chloroform. The organic layer was combined with the chloroform extract and then the solvent was distilled from the mixture. The residue was dissolved in 50 ml of a 1:1 by volume mixture of benzene and ethyl acetate, washed successively with 0.02N hydrochloric acid, water, a 5% w/v aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulphate. The solvent was distilled off, to afford 1.47 g (yield 100%) of the title product as crystals which were recrystallized from a mixture of benzene and ethyl acetate, to afford the pure product melting at 129°-130° C.

reactant | (3S, 4R)-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-4-[(phenylthio)carbonyl-methyl]-2-azetidinone | 2.25 mmole, 1.00 g | [N+](=O)([O-])C1=CC=C(COC(=O)O[C@H](C)[C@H]2C(N[C@@H]2CC(=O)SC2=CC=CC=C2)=O)C=C1 | C21H20N2O7S
reactant | diisopropylethylamine | 2.71 mmole, 350 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-nitrobenzyloxyethyl chloride | 2.71 mmole, 660 mg | [N+](=O)([O-])C1=CC=C(COCCCl)C=C1 | C9H10ClNO3
reactant | diisopropylethylamine | 1.78 mmole, 230 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-nitrobenzyloxyethyl chloride | 1.78 mmole, 433 mg | [N+](=O)([O-])C1=CC=C(COCCCl)C=C1 | C9H10ClNO3
reactant | phosphate | 0.1M, pH 7.1 | P(=O)([O-])([O-])[O-]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (3S, 4R)-3-[(R)-1-(p-Nitrobenzyloxycarbonyloxy)ethyl]-1-(p-nitrobenzyloxyethyl)-4-[(phenylthio)carbonylmethyl]-2-azetidinone | 1.47 g, yield 100% | [N+](=O)([O-])C1=CC=C(COC(=O)O[C@H](C)[C@H]2C(N([C@@H]2CC(=O)SC2=CC=CC=C2)CCOCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C30H29N3O10S
